US04294960
2-(2-Formamidothiazol-4-yl)-2-iso-butoxyiminoacetic acid (syn isomer, 6.48 g.), N,N-dimethylformamide (2.10 g.), phosphoryl chloride (4.40 g.), tetrahydrofuran (110 ml.), 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate (8.23 g.), acetone (16 ml.) and water (16 ml.) were treated in a similar manner to that of Example 15-(1) to give 4-nitrobenzyl 7-[2-(2formamidothiazol-4-yl)-2-iso-butoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 12.8 g.).

reactant | 2-(2-Formamidothiazol-4-yl)-2-iso-butoxyiminoacetic acid | 6.48 g | C(=O)NC=1SC=C(N1)C(C(=O)O)=NOCC(C)C | C10H13N3O4S
reactant | N,N-dimethylformamide | 2.10 g | CN(C=O)C | C3H7NO
reactant | phosphoryl chloride | 4.40 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate | 8.23 g | NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H13N3O5S
solvent | water | 16 ml | O | H2O
solvent | acetone | 16 ml | CC(=O)C | C3H6O
solvent | tetrahydrofuran | 110 ml | O1CCCC1 | C4H8O
product | 4-nitrobenzyl 7-[2-(2formamidothiazol-4-yl)-2-iso-butoxyiminoacetamido]-3-cephem-4-carboxylate | 12.8 g | C(=O)NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCC(C)C | C24H24N6O8S2
